US05306718
1-Methyl-4-piperidinone O-methyloxime hydrochloride
1-Methyl-4 piperidone (5 g, 44.2 mmol) and methoxyamine hydrochloride (3.69 g, 44.2 mmol) were taken into 25 mL of methanol and stirred at room temperature for 2 days. The reaction mixture was evaporated in vacuo to afford a solid residue. The residue was dissolved in water, made basic with solid potassium carbonate, and extracted with dichloromethane (3×100 mL). The combined extracts were dried over anhydrous sodium sulfate and evaporated to give a clear, yellow liquid that was purified on silica gel, eluting with dichloromethane-methanol (95:5) to afford 2.55 g of the desired product. Treatment with ethereal hydrogen chloride gave the hydrochloride salt, 2.99 g, m.p. 145°-147° C.

reactant | 1-Methyl-4 piperidone | 44.2 mmol, 5 g | CN1CCC(CC1)=O | C6H11NO
reactant | methoxyamine hydrochloride | 44.2 mmol, 3.69 g | Cl.CON
reactant | methanol | 25 mL | CO | CH4O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 1-Methyl-4-piperidinone O-methyloxime hydrochloride | 2.55 g | Cl.CON=C1CCN(CC1)C | InChI=1S/C7H14N2O.ClH/c1-9-5-3-7(4-6-9)8-10-2;/h3-6H2,1-2H3;1H
